US04032323
A solution of ethyl 3-iminohexanoate (31.4 g.) in toluene (25 ml.) was added to a stirred solution of phenoxycarbonyl isothiocyanate (36 g.) in toluene (75 ml.) at 20° C. The temperature rose to 54° C. The mixture was allowed to cool to room temperature, filtered, and the solid washed with light petroleum (b.p. 40°-60° C.) to give 2-ethoxycarbonyl-3-imino-N-phenoxycarbonylthiohexanamide (62 g.) in the form of a yellow powder. This powder was suspended in ethyl acetate (150 ml.) and treated at 0°-5° C. with a solution of bromine (10.5 ml.) in ethyl acetate (50 ml.) during 20 minutes. The mixture was stirred for a further hour and then filtered, and the solid washed with light petroleum (b.p. 40°-60° C.) to give 4-ethoxycarbonyl-5-phenoxycarbonylamino-3-n-propylisothiazole hydrobromide (69 g.) m.p. 135°-138° C.

reactant | ethyl 3-iminohexanoate | 31.4 g | N=C(CC(=O)OCC)CCC | C8H15NO2
reactant | phenoxycarbonyl isothiocyanate | 36 g | O(C1=CC=CC=C1)C(=O)N=C=S | C8H5NO2S
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
product | 2-ethoxycarbonyl-3-imino-N-phenoxycarbonylthiohexanamide | 62 g | C(C)OC(=O)C(C(=S)NC(=O)OC1=CC=CC=C1)C(CCC)=N | C16H20N2O4S
